US08138181B2
Step D: Preparation of naphthalen-2-ylmethyl 3-fluoro-4-oxopiperidine-1-carboxylate:
To a suspension of 3-fluoropiperidin-4-one hydrochloride (35.66 g, 232.2 mmol) in THF (800 mL) at 0° C. was added a solution of NaHCO3 (46.81 g, 557.3 mmol) in water (800 mL). After most of the bubbling had subsided the ensuing solution was treated with a solution of naphthalen-2-ylmethyl carbonochloridate (56.36 g, 255.4 mmol) in THF (300 mL) dropwise, over 30 minutes. The mixture was allowed to warm to ambient temperature over 16 hours with vigorous stirring. The mixture was diluted with water and extracted with EtOAc. The combined organic phases were washed with brine, then dried over Na2SO4, filtered arid concentrated. The residue was triturated with methanol and the resulting solid was filtered and dried in vacuo to afford 41.8 g (60%) of desired product as a cream-colored powder.

reactant | 3-fluoropiperidin-4-one hydrochloride | 232.2 mmol, 35.66 g | Cl.FC1CNCCC1=O
reactant | NaHCO3 | 557.3 mmol, 46.81 g | C(=O)(O)[O-].[Na+]
reactant | naphthalen-2-ylmethyl carbonochloridate | 255.4 mmol, 56.36 g | C(OCC1=CC2=CC=CC=C2C=C1)(=O)Cl | C12H9ClO2
solvent | THF | 800 mL | C1CCOC1 | C4H8O
solvent | water | 800 mL | O | H2O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | naphthalen-2-ylmethyl 3-fluoro-4-oxopiperidine-1-carboxylate | 41.8 g, 60% | FC1CN(CCC1=O)C(=O)OCC1=CC2=CC=CC=C2C=C1 | C17H16FNO3
